US09353121B2
A mixture of benzaldehyde (290 μL, 2.87 mmol, 1.0 equ.), malononitrile (190 mg, 2.87 mmol, 1.0 equ.) and triethylamine (400 μL, 2.87 mmol, 1.0 equ.) in ethanol (10 mL) was stirred for 1 min, followed by the addition of 3-(4-methoxyphenyl)-1-phenyl-1H-pyrazol-5(4H)-one (764 mg, 2.87 mmol, 1 equ.). The reaction mixture was concentrated after 19 h and washed with ethanol and hexanes, re-crystallized from ethanol, and washed with hexanes and ethanol to give 6-amino-3-(4-methoxyphenyl)-1,4-diphenyl-1,4-dihydropyrano[2,3-c]pyrazole-5-carbonitrile (695 mg, 1.65 mmol, 58%) as a white solid. 1H-NMR (400 MHz) DMSO: 7.94-7.92 (d, 2H), 7.58-7.53 (m, 2H), 7.41-7.37 (t, 1H), 7.27-7.16 (m, 7H), 6.83-6.81 (d, 2H), 5.04 (s, 1H), 3.71 (s, 3H), 13C-NMR (100 MHz) DMSO: 159.5, 159.0, 146.6, 145.6, 144.5, 137.9, 129.8, 128.9, 128.3, 128.0, 127.3, 127.1, 125.1, 121.1, 120.3, 114.1, 97.5, 59.8, 55.5, 37.9; LC/MS-MS: 421.2→355.0 m/z; GS1 and GS2 at 30, DP=71, CE=33, CXP=24, tR=4.28 min.

reactant | benzaldehyde | 2.87 mmol, 290 μL | C(C1=CC=CC=C1)=O | C7H6O
reactant | malononitrile | 2.87 mmol, 190 mg | C(CC#N)#N | C3H2N2
reactant | triethylamine | 2.87 mmol, 400 μL | C(C)N(CC)CC | C6H15N
reactant | 3-(4-methoxyphenyl)-1-phenyl-1H-pyrazol-5(4H)-one | 2.87 mmol, 764 mg | COC1=CC=C(C=C1)C1=NN(C(C1)=O)C1=CC=CC=C1 | C16H14N2O2
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 6-amino-3-(4-methoxyphenyl)-1,4-diphenyl-1,4-dihydropyrano[2,3-c]pyrazole-5-carbonitrile | 1.65 mmol, 695 mg, 58% | NC1=C(C(C2=C(N(N=C2C2=CC=C(C=C2)OC)C2=CC=CC=C2)O1)C1=CC=CC=C1)C#N | C26H20N4O2
